US04695626
Allyl Glyoxylate Monohydrate
Diallyl tartrate (23.9 g, 0.104 mol) was dissolved in 500 ml ether and cooled to 0° C., stirring under N2. Periodic acid (47.3 g, 0.298 mol) was added in one portion. After 2.5 hours at 0° C., solids were separated by decantation and filtration. The filtrate was washed 3×250 ml saturated Na2S2O3 and the further solids which formed removed by a second filtration. The second filtrate was dried over Na2SO4 and stripped to an oil, 17.8 g, which was triturated twice with ether, twice filtered and separated from the ether to form a second oil, 15.6 g. The latter was flash chromatographed on silica gel, monitoring by tlc and using 2:1 hexane:ethyl acetate as eluant, discarding early fractions containing a slightly less polar impurity. Purified title product was recovered as an oil, 11.3 g, tlc Rf 0.25 (2:1 hexane:ethyl acetate).

reactant | Diallyl tartrate | 0.104 mol, 23.9 g | C(=O)(OCC=C)C(O)C(O)C(=O)OCC=C | C10H14O6
reactant | Periodic acid | 0.298 mol, 47.3 g | I(=O)(=O)(=O)O | HIO4
solvent | ether | 500 ml | CCOCC | C4H10O
product | Allyl Glyoxylate Monohydrate | O.C(C=O)(=O)OCC=C | InChI=1S/C5H6O3.H2O/c1-2-3-8-5(7)4-6;/h2,4H,1,3H2;1H2
